US05182272
N-(2-thienylacetyl)-β-alanine, methyl ester (3)
To an ice-bath-cooled solution of 0.45 g (3.2 mmol) of methyl β-alaninate hydrochloride and 1.14 mL of N,N-diisopropylethylamine (DlEA) in 10 mL of dimethylformamide (DMF) was added dropwise a 2 mL DMF solution of 0.51 g (3.2 mmol) of 2-thiopheneacetyl chloride. After 16 hours of stirring at room temperature, the reaction mixture was added to 50 mL of ethyl acetate (EtOAc) and 50 mL of 1 M KHSO4, and the resulting layers were separated. The organic layer was washed with 2×50 mL of 1 M KHSO4, 2×50 mL of a saturated KHCO3 solution, and 2×50 mL of H2O. The organic layer was then dried over Na2SO4 (anhydrous), filtered, and then concentrated under reduced pressure.

reactant | methyl β-alaninate hydrochloride | 3.2 mmol, 0.45 g | Cl.NCCC(=O)OC
reactant | N,N-diisopropylethylamine | 1.14 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-thiopheneacetyl chloride | 3.2 mmol, 0.51 g | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
reactant | KHSO4 | 1 M, 50 mL | OS(=O)(=O)[O-].[K+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | DMF | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-(2-thienylacetyl)-β-alanine, methyl ester | S1C(=CC=C1)CC(=O)NCCC(=O)OC | C10H13NO3S
